US09126931B2
8-((R)-2,3-Dihydroxy-propoxy)-4-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile
Under nitrogen atmosphere, 8-((R)-2,3-dihydroxy-propoxy)-4-hydroxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile (Compound U8-4-2, 8.0 mg, 20.39 μmol) was dissolved in methanol (2.0 mL) and chloroform (2.00 mL), added with trimethylsilyldiazomethane (diethyl ether solution, 2 M, 15.3 μL, 30.58 μmol) and diisopropylethylamine (0.05 mL), and then stirred at room temperature for 31 hr. The residues obtained from the reaction solution after concentration under reduced pressure were purified by silica gel column chromatography (methanol/dichloromethane) to obtain the title compound (5.1 mg, 62%).

reactant | 8-((R)-2,3-dihydroxy-propoxy)-4-hydroxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 20.39 μmol, 8.0 mg | O[C@@H](COC=1C=CC2=C(C(C=3NC4=C(C(=CC=C4C3C2=O)C#N)O)(C)C)C1)CO | C22H20N2O5
reactant | trimethylsilyldiazomethane | 30.58 μmol, 2 M, 15.3 μL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | diisopropylethylamine | 0.05 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methanol | 2.0 mL | CO | CH4O
solvent | chloroform | 2.00 mL | C(Cl)(Cl)Cl | CHCl3
product | 8-((R)-2,3-Dihydroxy-propoxy)-4-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 5.1 mg, 62% | O[C@@H](COC=1C=CC2=C(C(C=3NC4=C(C(=CC=C4C3C2=O)C#N)OC)(C)C)C1)CO | C23H22N2O5
